US06458968B2
A mixture of 4-trifluoromethylbenzoic acid (1.90 g), benzyl mercaptan (1.24 g) and phosphorus pentasulfide (4.44 g) in toluene (40 ml) was refluxed for 10 h. A dark red color was developed immediately after heating. After the reaction was complete (as monitored by GC-MS), it was cooled to room temperature and purified by a column chromatography packed with neutral alumina, eluting with benzene. Removal of the solvent by distillation gave the single compound, benzyl-4-trifluoromethyidithiobenzoate (2.30 g, 74%). It was further characterized by 1H and 13C-NMR.

reactant | 4-trifluoromethylbenzoic acid | 1.90 g | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | benzyl mercaptan | 1.24 g | C(C1=CC=CC=C1)S | C7H8S
reactant | phosphorus pentasulfide | 4.44 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl-4-trifluoromethyidithiobenzoate | 2.30 g, 74% | C(C1=CC=CC=C1)SC(C1=CC=C(C=C1)C(F)(F)F)=S | C15H11F3S2
